US06555080B1
I. Synthesis of N-cyclohexylpyrrolidine
The structure-directing agent (SDA) is synthesized using the reaction sequence described in the scheme below. A three neck 3000-ml flask is charged with 100 gm (1.4 mole) of pyrrolidine, 50 gm of cyclohexanone (0.51 mole) and 1000 ml anhydrous hexane. To the resulting solution, 122 gm (1.022 mole) of anhydrous magnesium sulfate is added and the mixture is mechanically stirred and heated at reflux (the reaction is monitored by NMR analysis) for 96 hrs. The reaction mixture is filtered through a fritted glass funnel. The filtrate is concentrated under reduced pressure on a rotary evaporator to give 75 gm of a clear (yellow-tinted) oily substance. 1H-NMR and 13C-NMR spectra are acceptable for the desired product 1-(1-pyrrolidino)cyclohexene. Saturation of 1-(1-pyrrolidino)cyclohexene, to give N-cyclohexylpyrrolidine, is accomplished in quantitative yield by hydrogenation in ethanol at a 55 psi pressure of hydrogen gas in the presence of 10% Pd on activated carbon.

reactant | pyrrolidine | 1.4 mole, 100 gm | N1CCCC1 | C4H9N
reactant | cyclohexanone | 0.51 mole, 50 gm | C1(CCCCC1)=O | C6H10O
reactant | magnesium sulfate | 1.022 mole, 122 gm | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | hexane | 1000 ml | CCCCCC | C6H14
product | N-cyclohexylpyrrolidine | C1(CCCCC1)N1CCCC1 | C10H19N
